US07482448B2
Morpholine-4-carboxylic acid {(S)-3,3-difluoro-1-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propylcarbamoyl]-butyl}-amide
By proceeding in a similar manner to Example 1 above but using (S)-4,4-Difluoro-2-[(morpholine-4-carbonyl)-amino]-pentanoic acid and (S)-2-Amino-1-(3-phenyl-1,2,4-oxadiazol-5-yl)-butan-1-ol there is prepared Morpholine-4-carboxylic acid {(S)-3,3-difluoro-1-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propylcarbamoyl]-but}-amide as a solid.

reactant | (S)-4,4-Difluoro-2-[(morpholine-4-carbonyl)-amino]-pentanoic acid | FC(C[C@@H](C(=O)O)NC(=O)N1CCOCC1)(C)F | C10H16F2N2O4
reactant | (S)-2-Amino-1-(3-phenyl-1,2,4-oxadiazol-5-yl)-butan-1-ol | NC([C@H](O)C1=NC(=NO1)C1=CC=CC=C1)CC | C12H15N3O2
product | Morpholine-4-carboxylic acid {(S)-3,3-difluoro-1-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propylcarbamoyl]-butyl}-amide | FC(C[C@@H](C(N[C@@H](CC)C(=O)C1=NC(=NO1)C1=CC=CC=C1)=O)NC(=O)N1CCOCC1)(C)F | C22H27F2N5O5
